US06245770B1
Preparation of 6-bromo-2,3-dihydro-3-[(tetrahydro-2-furanyl)methyl]-2-thioxo-4(1H)-quinazolinone
A mixture of 2-amino-5-bromobenzoic acid (8.0 g, 37.0 mmol), tetrahydrofurfuryl isothiocyanate (5.0 g, 34.9 mmol) and triethylamine (5.0 mL, 3.6 g, 35.6 mmol) in ethanol (48 mL) was heated at reflux for 2 h. The reaction mixture was then allowed to cool to room temperature and filtered. The resulting filter cake was washed with 50 mL of cold ethanol, followed by 50 mL of hexanes to provide 10.8 g of the title compound of Step A as a solid melting at 230-232° C. 1H NMR (400 MHz, Me2SO-d6): δ 1.63-2.0 (m,4H), 3.58-3.68 (m,1H), 3.74-3.82 (m,1H), 4.32 (dd,1H), 4.39-4.50 (m,1H), 4.58 (dd,1H), 7.37 (d,1H), 7.91 (d,1H), 8.02 (s,1H), 13.1 (br s,1H).

reactant | 2-amino-5-bromobenzoic acid | 37.0 mmol, 8.0 g | NC1=C(C(=O)O)C=C(C=C1)Br | C7H6BrNO2
reactant | tetrahydrofurfuryl isothiocyanate | 34.9 mmol, 5.0 g | C(C1CCCO1)N=C=S | C6H9NOS
reactant | triethylamine | 35.6 mmol, 5.0 mL, 3.6 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 48 mL | C(C)O | C2H6O
product | 6-bromo-2,3-dihydro-3-[(tetrahydro-2-furanyl)methyl]-2-thioxo-4(1H)-quinazolinone | 10.8 g | BrC=1C=C2C(N(C(NC2=CC1)=S)CC1OCCC1)=O | C13H13BrN2O2S
